US06649643B1
Production of 6-[1-(Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-propyl-2-naphthamide
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (2.83 g) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with n-propylamine (0.66 mL) in a similar manner as described in Example 24-(i) to give the titled compound (2.74 g) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 2.83 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | n-propylamine | 0.66 mL | C(CC)N | C3H9N
product | 1-(Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-propyl-2-naphthamide | 2.74 g | OC(C(C)C)(C=1N=CNC1)C1=C(C=CC2=CC=CC=C12)C(=O)NCCC | C21H25N3O2
